2197-02-13 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2197-2-12**] 08:24 AM
 TRANSTHORACIC ECHO - At [**2197-2-12**] 12:00 PM
   -emailed Dr. [**Last Name (STitle) 4309**], he wrote back saying OK to hold letrozole for now
   but unlikely cause
   -changed heparin to lovenox, advanced diet given hemodynamic stability
   - called ([**Telephone/Fax (1) 13851**] [**Hospital6 10542**] re sputum/blood cx.
   Lab is closed and unable to access data.  ??
   - nervous and sleepless most of the night, calling sister repeatedly
   (who then calls unit)
   - as above, pt appears to be in opiate withdrawal-->increased oxycodone
   (still below total home dose), eventually fell asleep
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2197-2-12**] 09:15 AM
   Azithromycin - [**2197-2-12**] 10:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2197-2-12**] 11:15 AM
   Enoxaparin (Lovenox) - [**2197-2-13**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-2-13**] 07:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**98**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.1
C (97
   HR: 92 (82 - 98) bpm
   BP: 143/82(97) {73/50(60) - 162/100(109)} mmHg
   RR: 15 (9 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  2,937 mL
                                                                    200 mL
   PO:
                                                                  1,880 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  1,057 mL
   Blood products:
   Total out:
                                                                    820 mL
                                                                    250 mL
   Urine:
                                                                    670 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,117 mL
                                                                    -50 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///37/
   Physical Examination
   GEN: Tearful, alert and oriented, intermittently pausing during speech,
   overall comfortable appearing.
   SKIN: Red skin, worse with coughing
   HEENT: No JVD, neck supple, No lymphadenopathy appreciated
   CHEST: Wheezes in all lung fields, L sided rhonchi.
   CARDIAC: S1 & S2 regular without murmur, Left mastectomy
   ABDOMEN: Tender with guarding but not tense or rigid. Bowel sounds
   present.
   EXTREMITIES: Tender L calf, bilateral edema, warm without cyanosis
   NEUROLOGIC: Alert and appropriate, tearful. CN II-XII grossly intact.
   Labs / Radiology
   135 K/uL
   13.5 g/dL
   125 mg/dL
   0.6 mg/dL
   37 mEq/L
   3.4 mEq/L
   8 mg/dL
   97 mEq/L
   141 mEq/L
   41.8 %
   5.5 K/uL
        [image002.jpg]
                             [**2197-2-12**]  10:00 AM
                             [**2197-2-13**]  04:27 AM
   WBC
   6.4
   5.5
   Hct
   41.4
   41.8
   Plt
   154
   135
   Cr
   0.8
   0.6
   TropT
   0.08
   0.05
   Glucose
   194
   125
   Other labs: PT / PTT / INR:13.2/32.5/1.1, CK / CKMB /
   Troponin-T:61//0.05, Ca++:8.9 mg/dL, Mg++:1.4 mg/dL, PO4:2.8 mg/dL
   [**2197-2-12**]  B/L LE ultrasound: IMPRESSION: No evidence of DVT in the lower
   extremities.
   [**2197-2-12**] CTA chest:
   1. Bilateral, multifocal segmental PE, with significant clot burden
   resulting
   in right heart strain. Emboli are seen in vessels supplying the right
   upper,
   middle and lower lobes, and the lingula, with extension of embolic
   material
   into multiple peripheral vessels supplying both lungs. There are
   prominent
   subsegmental PE in vessels supplying the posterior left lower lobe.
   2. Enlarged right ventricle and straightened intraventricular septum
   consistent with right heart strain. No pulmonary infarct at this time.
   3. Heterogeneous peribronchovascular nodules in the left upper lobe,
   could
   reflect hemorrhage or infectious etiology. Unlikely to represent
   infarct.
   Recommend re-imaging after treatment for PE.
   [**2197-2-12**] ECHO (fellow study): read pending
   Micro:
   [**2-12**] BCx x 2 NGTD
   [**2-12**] Sputum cx- > 25PMNs and > 10 epis, test cancelled
   Assessment and Plan
 ANXIETY
 PULMONARY EMBOLISM (PE), ACUTE
   A 59 year old woman found unresponsive found to have large bilateral
   PEs and a LUL PNA.
   #. Pulmonary Emboli: The patient has extensive bilateral PEs with
   hypoxia easily correctable on NC, but is overall hemodynamically
   stable.  The source is likely
   - Heparin gtt
   - Guaiac stools
   - Follow Troponin & BNP Q12
   - Echo today
   - Consider lysis if unstable, but currently not indicated
   - Type & screen active
   - Bilateral LE u/s to confirm source
   - Filter if she has DVT
   #. Hypoxia: Combination of PE and Pneumonia, patient is satting well on
   NC 5L.
   - Follow sats, goal >90%
   - ABG with change in clinical status
   #. Pneumonia: The patient has evidence of a LUL PNA on outside hospital
   CXR, positive sputum. Afebrile with no leukocytosis.
   - F/U Blood/sputum cx
   - Continue CTX/Azithro for CAP
   #. Alcohol/Opiate Abuse: The patient has a history of alcohol and
   opiate abuse to which she readily admits. Last drink yesterday
   - CIWA Scale
   - Oxycodone 10mg PO Q4 prn for pain control, to avoid withdrawal.
   taper once clinically stable
   - Social work consult
   - Thiamine/Folate
   #. Breast Ca: history of breast CA, seen by Dr. [**Last Name (STitle) 4309**].
   - Contact Dr. [**Last Name (STitle) 4309**]
   - Hold Letrozole 2.5mg PO Daily given low but existent clot risk
   #. Depression:
   - Continue Paxil
   - Social work consult
   #. Chemotherapy Neuropathy:  Like the cause of her edema
   - Continue Neurontin
   - hold lasix
   #. Hypertension: Hold metoprolol
   # FEN: IVF prn / replete lytes prn / clear liquids
   # PPX: PPI, heparin gtt, bowel regimen
   # ACCESS: PIV  x2
   # CODE:  Undecided, patient unsure if she would like to be intubated
   and is waiting for her husband to arrive to help her decide.
   # CONTACT:  [**Name (NI) 186**] [**Name (NI) **] [**Name (NI) 13829**] [**Telephone/Fax (1) 13830**]; Sister [**Name (NI) 13831**]
   [**0-0-**]
   # ICU CONSENT: Deferred at patient request
   # DISPOSITION:
   [ ] Floor pending further investigation
   [ ] Floor pending
   [ ] Stepdown / [**Hospital Unit Name 1682**]
   [X] ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2197-2-12**] 04:30 AM
   20 Gauge - [**2197-2-12**] 04:30 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2197-02-13 10:53:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   59 yo women with prior h/o breast CA, and PE.  Went to OSH with
   hypoxemia on [**2-11**], and decreased MS.  CT found b/l PEs.  Started on
   heparin drip.  In MICU has been on 5L NC oxygen, with sat in low 90s.
   No hemodynamic instability.  Yesterday switched over to lovenox.
   Overnight was having sweats anxiety.  Has h/o chronic ETOH and opiate
   use.  Responded to increase dose of narcotic.
   24 Hour Events:
 ULTRASOUND - At [**2197-2-12**] 08:24 AM
 TRANSTHORACIC ECHO - At [**2197-2-12**] 12:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2197-2-12**] 10:00 AM
   Ceftriaxone - [**2197-2-13**] 09:00 AM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2197-2-12**] 11:15 AM
   Enoxaparin (Lovenox) - [**2197-2-13**] 12:00 AM
   Pantoprazole (Protonix) - [**2197-2-13**] 09:00 AM
   Other medications:
   paxil
   folate
   thiamine
   neurontin
   protonix
   colace
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-2-13**] 10:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**98**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 90 (83 - 98) bpm
   BP: 137/90(93) {90/50(66) - 162/100(109)} mmHg
   RR: 14 (10 - 24) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 129 kg (admission): 128 kg
             Total In:
                                                                  2,937 mL
                                                                    490 mL
   PO:
                                                                  1,880 mL
                                                                    440 mL
   TF:
   IVF:
                                                                  1,057 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                    820 mL
                                                                    850 mL
   Urine:
                                                                    670 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,117 mL
                                                                   -360 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 90%
   ABG: ///37/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : diffusely)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   13.5 g/dL
   135 K/uL
   125 mg/dL
   0.6 mg/dL
   37 mEq/L
   3.4 mEq/L
   8 mg/dL
   97 mEq/L
   141 mEq/L
   41.8 %
   5.5 K/uL
        [image002.jpg]
                             [**2197-2-12**]  10:00 AM
                             [**2197-2-13**]  04:27 AM
   WBC
   6.4
   5.5
   Hct
   41.4
   41.8
   Plt
   154
   135
   Cr
   0.8
   0.6
   TropT
   0.08
   0.05
   Glucose
   194
   125
   Other labs: PT / PTT / INR:13.2/32.5/1.1, CK / CKMB /
   Troponin-T:61//0.05, Ca++:8.9 mg/dL, Mg++:1.4 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   PNA:  has LUL infiltrate consistent with PNA:  continue CTX and
   azithro.
   Wheezing:  has a long smoking history according to sister (although
   patient denies).  Will also give a course of prednisone, and add
   bronchodilators.
 PULMONARY EMBOLISM (PE), ACUTE:  Requiring a fair amount of oxygen.
   Continue lovenox
   ETOH abuse:  no evidence of withdrawl.
   Opiate withdrawl:  gets 160mg of oxycontin at home per day.  Currently
   on 120mg of oxycodone per day.
   Neuropathy:
   HTN:  can watch for now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2197-2-12**] 04:30 AM
   20 Gauge - [**2197-2-12**] 04:30 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2197-02-14 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - still requires 6L of NC to maintain O2 sat in low 90s
   - very anxious about narcotic regimen
   - oxycontin 20 mg [**Hospital1 **] added
   - metoprolol held in the setting of R heart strain; captopril 6.25 mg
   tid started because SBP increased to 160s
   - husband asked for narcotics for himself; house officer refused
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2197-2-13**] 09:00 AM
   Azithromycin - [**2197-2-13**] 10:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2197-2-13**] 09:00 AM
   Enoxaparin (Lovenox) - [**2197-2-14**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-2-14**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**98**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 35.9
C (96.7
   HR: 81 (66 - 108) bpm
   BP: 139/80(95) {90/62(77) - 167/131(118)} mmHg
   RR: 13 (9 - 24) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 129 kg (admission): 128 kg
                  Total In:
                                                                    980 mL
                                                                    480 mL
   PO:
                                                                    680 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    300 mL
   Blood products:
   Total out:
                                                                  1,725 mL
                                                                    400 mL
   Urine:
                                                                  1,725 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -745 mL
                                                                     80 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///34/
   Physical Examination
   GEN: Tearful, alert and oriented, intermittently pausing during speech,
   overall comfortable appearing.
   SKIN: Red skin, worse with coughing
   HEENT: No JVD, neck supple, No lymphadenopathy appreciated
   CHEST: Wheezes in all lung fields, L sided rhonchi.
   CARDIAC: S1 & S2 regular without murmur, Left mastectomy
   ABDOMEN: Tender with guarding but not tense or rigid. Bowel sounds
   present.
   EXTREMITIES: Tender L calf, bilateral edema, warm without cyanosis
   NEUROLOGIC: Alert and appropriate, tearful. CN II-XII grossly intact.
   Labs / Radiology
   147 K/uL
   13.0 g/dL
   154 mg/dL
   0.5 mg/dL
   34 mEq/L
   4.1 mEq/L
   8 mg/dL
   99 mEq/L
   140 mEq/L
   40.3 %
   3.9 K/uL
        [image002.jpg]
                             [**2197-2-12**]  10:00 AM
                             [**2197-2-13**]  04:27 AM
                             [**2197-2-14**]  05:14 AM
   WBC
   6.4
   5.5
   3.9
   Hct
   41.4
   41.8
   40.3
   Plt
   154
   135
   147
   Cr
   0.8
   0.6
   0.5
   TropT
   0.08
   0.05
   Glucose
   194
   125
   154
   Other labs: PT / PTT / INR:13.2/32.5/1.1, CK / CKMB /
   Troponin-T:61//0.05, Ca++:8.7 mg/dL, Mg++:1.6 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 CHRONIC PAIN
 HYPERTENSION, BENIGN
 ANXIETY
 PULMONARY EMBOLISM (PE), ACUTE
   A 59 year old woman found unresponsive found to have large bilateral
   PEs and a LUL PNA.
   #. Hypoxia: Related to pulmonary emboli, CAP (LUL consolidation) and
   COPD flare.
   -f/u final read of echo
   -continue anticoagulation
   -continue CTX and azithromycin x 1 week course
   -standing nebs as well as prn
   -start steroids- prednisone 60mg daily then taper
   #. Alcohol/Opiate Abuse: The patient has a history of alcohol and
   opiate abuse to which she readily admits. Last drink yesterday
   -CIWA Scale
   -Oxycodone 20mg PO Q4 prn
   -Social work consult
   -Thiamine/Folate
   #. Breast Ca:   history of breast CA, seen by Dr. [**Last Name (STitle) 4309**].  Per Dr. [**Last Name (STitle) 4309**]
   it is okay to hold letrozole but unlikely related to current situation
   with pulmonary emboli.
   #. Depression:
   - Continue Paxil
   - Social work consult
   #. Chemotherapy Neuropathy:  Like the cause of her edema
   - Continue Neurontin and oxycodone
   - continue home lasix 20mg po daily
   #. Hypertension: continue to hold metoprolol
   # FEN: IVF prn / replete lytes prn / clear liquids
   # PPX: PPI, lovenox treatment dose for PE, bowel regimen
   # ACCESS: PIV  x2
   # CODE:  Undecided, patient unsure if she would like to be intubated
   and is waiting for her husband to arrive to help her decide.
   # CONTACT:  [**Name (NI) 186**] [**Name (NI) **] [**Name (NI) 13829**] [**Telephone/Fax (1) 13830**]; Sister [**Name (NI) 13831**]
   [**0-0-**]
   # ICU CONSENT: Deferred at patient request
   # DISPOSITION:
   [ ] Floor pending further investigation
   [ ] Floor pending
   [ ] Stepdown / [**Hospital Unit Name 1682**]
   [X] ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2197-2-12**] 04:30 AM
   20 Gauge - [**2197-2-12**] 04:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2197-02-14 11:49:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   resp distress from PE, pna, probable COPD
   24 Hour Events:
   no events and no complaints.
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2197-2-13**] 10:00 AM
   Ceftriaxone - [**2197-2-14**] 09:41 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2197-2-14**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-2-14**] 11:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**98**] AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.9
   HR: 79 (66 - 108) bpm
   BP: 98/72(78) {98/62(77) - 167/131(118)} mmHg
   RR: 10 (9 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 129 kg (admission): 128 kg
             Total In:
                                                                    980 mL
                                                                    890 mL
   PO:
                                                                    680 mL
                                                                    840 mL
   TF:
   IVF:
                                                                    300 mL
                                                                     50 mL
   Blood products:
   Total out:
                                                                  1,725 mL
                                                                    400 mL
   Urine:
                                                                  1,725 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -745 mL
                                                                    490 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///34/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : throughout, Rhonchorous:
   )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   13.0 g/dL
   147 K/uL
   154 mg/dL
   0.5 mg/dL
   34 mEq/L
   4.1 mEq/L
   8 mg/dL
   99 mEq/L
   140 mEq/L
   40.3 %
   3.9 K/uL
        [image002.jpg]
                             [**2197-2-12**]  10:00 AM
                             [**2197-2-13**]  04:27 AM
                             [**2197-2-14**]  05:14 AM
   WBC
   6.4
   5.5
   3.9
   Hct
   41.4
   41.8
   40.3
   Plt
   154
   135
   147
   Cr
   0.8
   0.6
   0.5
   TropT
   0.08
   0.05
   Glucose
   194
   125
   154
   Other labs: PT / PTT / INR:13.2/32.5/1.1, CK / CKMB /
   Troponin-T:61//0.05, Ca++:8.7 mg/dL, Mg++:1.6 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   1. PE- on enoxaparin
   2. Probable pna- LUL infiltrate
   -cont CTX + azithro
   3. Possible COPD exac- long smoking hx that pt denies, with wheezing on
   exam
   -on standing bronchodilators + prednisone burst
   4. ETOH abuse-  no evidence of withdrawl.
   5. Opiate withdrawl:  gets 160mg of oxycontin at home per day.
   Currently on 120mg of oxycodone per day.
   ICU Care
   Nutrition:
   Comments: po diet
   Glycemic Control:  Blood sugar well controlled
   Lines:
   22 Gauge - [**2197-2-12**] 04:30 AM
   20 Gauge - [**2197-2-12**] 04:30 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 20 minutes
   ------ Protected Section ------
   Patient seen and examined with Dr. [**Last Name (STitle) 5199**], and house staff team.
   I have reviewed his note and agree with assessment and plan.  Would
   add/emphasize.
   59 yo women with h/o breast CA, admitted with PE,  PNA, and COPD
   exacerbation.  Currently feels better.  Is still coughing up sputum,
   but has less wheezing.
   Exam remarkable for barrel chest.  Lung exam with mild experatory
   rhonchi.  Soft abdomen.  Trace Edema.
   A/P
   Acute PE:  continue lovenox, will need lifelong Coumadin
   PNA:  continue antibiotics
   COPD:  continue steroid course and neb.
   Should get outpatient pulmonary follow up.
   35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 347**], MD
   on:[**2197-2-14**] 15:11 ------

2197-02-15 11:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -called out of ICU
   -patient became more hypoxic, initially while sleeping (86% on 3L) but
   this improved while awake then recurred during nebs (88% on 3L, up to
   91% on 5L NC).  Given this slightly worsened hypoxia she was called
   back in, 20mg IV lasix given (LOS fluid balance +1.7L) and q1hr
   albuterol nebs given for a few hours.
   -patient fell, tripped on tubes/cords while returning to the bed from
   the commode, mechanical fall, no LOC or head trauma
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2197-2-15**] 09:00 AM
   Ceftriaxone - [**2197-2-15**] 09:02 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2197-2-14**] 04:31 PM
   Enoxaparin (Lovenox) - [**2197-2-15**] 12:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-2-15**] 11:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**98**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.1
C (97
   HR: 85 (69 - 99) bpm
   BP: 135/87(100) {110/73(90) - 177/135(138)} mmHg
   RR: 16 (9 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 129 kg (admission): 128 kg
             Total In:
                                                                  2,270 mL
                                                                    780 mL
   PO:
                                                                  1,920 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    350 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                  2,450 mL
                                                                    550 mL
   Urine:
                                                                  2,450 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -180 mL
                                                                    230 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///37/
   Physical Examination
   GEN: Awake, alert and oriented
   SKIN: Red skin, worse with coughing
   HEENT: No JVD, neck supple, No lymphadenopathy appreciated
   CHEST: some L base crackles, no wheezes
   CARDIAC: S1 & S2 regular without murmur, Left mastectomy
   ABDOMEN: Tender with guarding but not tense or rigid. Bowel sounds
   present.
   EXTREMITIES: Tender L calf, bilateral edema, warm without cyanosis
   Labs / Radiology
   159 K/uL
   13.3 g/dL
   107 mg/dL
   0.5 mg/dL
   37 mEq/L
   3.9 mEq/L
   11 mg/dL
   98 mEq/L
   142 mEq/L
   41.7 %
   5.2 K/uL
        [image002.jpg]
                             [**2197-2-12**]  10:00 AM
                             [**2197-2-13**]  04:27 AM
                             [**2197-2-14**]  05:14 AM
                             [**2197-2-15**]  05:31 AM
   WBC
   6.4
   5.5
   3.9
   5.2
   Hct
   41.4
   41.8
   40.3
   41.7
   Plt
   154
   135
   147
   159
   Cr
   0.8
   0.6
   0.5
   0.5
   TropT
   0.08
   0.05
   Glucose
   194
   125
   154
   107
   Other labs: PT / PTT / INR:13.2/32.5/1.1, CK / CKMB /
   Troponin-T:61//0.05, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
 CHRONIC PAIN
 HYPERTENSION, BENIGN
 ANXIETY
 PULMONARY EMBOLISM (PE), ACUTE
   A 59 year old woman found unresponsive found to have large bilateral
   PEs and a LUL PNA.
   # PE: hemodynamically stable. On [**1-11**] L of NC.
   - continue enoxaparin
   - continue supplemental oxygen as needed
   # Pneumonia: s/p 5 doses of azithromycin
   - continue ceftriaxone to finish 7-day course
   #. Alcohol/Opiate Abuse:
   -CIWA Scale
   -Oxycodone 20mg PO Q4 prn with oxycontin 20 mg [**Hospital1 **]
   -f/u social work recs
   -Thiamine/Folate
   #. Breast Ca:   history of breast CA, seen by Dr. [**Last Name (STitle) 4309**].  Per Dr. [**Last Name (STitle) 4309**]
   it is okay to hold letrozole but unlikely related to current situation
   with pulmonary emboli.
   - further care per outpatient oncologist
   #. Depression:
   - Continue Paxil
   #. Hypertension: captopril started yesterday
   - metoprolol succinate 25 mg qday
   # FEN: IVF prn / replete lytes prn / clear liquids
   # PPX: PPI, enoxaparin dose for PE, bowel regimen
   # ACCESS: PIV  x2
   # CODE:  Undecided, patient unsure if she would like to be intubated
   and is waiting for her husband to arrive to help her decide.
   # CONTACT:  [**Name (NI) 186**] [**Name (NI) **] [**Name (NI) 13829**] [**Telephone/Fax (1) 13830**]; Sister [**Name (NI) 13831**]
   [**0-0-**]
   # ICU CONSENT: Deferred at patient request
   # DISPOSITION:  to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2197-2-12**] 04:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2197-02-15 11:22:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   hypoxemic resp distress from combination of acute PE, prob COPD, poss
   pneumonia
   24 Hour Events:
   did not get transferred from ICU due to hypoxemia, perhaps related to
   anxiety.
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2197-2-15**] 09:00 AM
   Ceftriaxone - [**2197-2-15**] 09:02 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2197-2-14**] 04:31 PM
   Enoxaparin (Lovenox) - [**2197-2-15**] 12:20 AM
   Other medications:
   Paxil, Folate, Thiamine, Neurontin, Protonix, Colace, Lasix, Prednisone
   60, Atrovent, Albuterol, Oxycodone, Captopril, Lopressor
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2197-2-15**] 11:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**98**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.1
C (97
   HR: 85 (69 - 99) bpm
   BP: 135/87(100) {110/73(90) - 177/135(138)} mmHg
   RR: 16 (9 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 129 kg (admission): 128 kg
             Total In:
                                                                  2,270 mL
                                                                    780 mL
   PO:
                                                                  1,920 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    350 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                  2,450 mL
                                                                    550 mL
   Urine:
                                                                  2,450 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -180 mL
                                                                    230 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///37/
   Physical Examination
   General Appearance: Overweight / Obese, Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, No(t) Oriented (to):
   , Movement: Not assessed, Tone: Not assessed, tearful when talking
   about her pet dog who has recently had surgery for cancer
   Labs / Radiology
   13.3 g/dL
   159 K/uL
   107 mg/dL
   0.5 mg/dL
   37 mEq/L
   3.9 mEq/L
   11 mg/dL
   98 mEq/L
   142 mEq/L
   41.7 %
   5.2 K/uL
        [image002.jpg]
                             [**2197-2-12**]  10:00 AM
                             [**2197-2-13**]  04:27 AM
                             [**2197-2-14**]  05:14 AM
                             [**2197-2-15**]  05:31 AM
   WBC
   6.4
   5.5
   3.9
   5.2
   Hct
   41.4
   41.8
   40.3
   41.7
   Plt
   154
   135
   147
   159
   Cr
   0.8
   0.6
   0.5
   0.5
   TropT
   0.08
   0.05
   Glucose
   194
   125
   154
   107
   Other labs: PT / PTT / INR:13.2/32.5/1.1, CK / CKMB /
   Troponin-T:61//0.05, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Microbiology: [**2-12**] sputum- (>25 pmn, >25 sq epi) cancelled
   [**2-12**] Blood neg to date
   Assessment and Plan
   1. PE- on enoxaparin
   2. Probable pna- LUL infiltrate
   -cont CTX + azithro
   3. Possible COPD exac- long smoking hx that pt denies, with wheezing on
   exam
   -on standing bronchodilators + prednisone burst (on 5d burst)
   4. ETOH abuse-  no evidence of withdrawl.
   5. Opiate withdrawl:  gets 160mg of oxycontin at home per day.
   Currently on 120mg of oxycodone per day.
   6. Anxiety- around getting home, pet dog
   -SW consult
   -poss low-dose Ativan prn
   ICU Care
   Nutrition:
   Comments: po diet
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2197-2-12**] 04:30 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes
   ------ Protected Section ------
   Patient seen and examined with Dr. [**Last Name (STitle) 5199**], and house staff team.
   I have reviewed his note and agree with assessment and plan.  Would
   add/emphasize.
   59 yo women with PE, PNA, COPD exacerbation.  Improved today.  Had a
   fall overnight.
   Exam:  clear lungs, no rhonchi.  No edema
   A/P:
   PE: on lovenox
   COPD:   steroids and nebs
   PNA: CTX and azithro
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 347**], MD
   on:[**2197-2-15**] 13:27 ------